* C:\Users\Rich\development\UWaterloo\dsp_pid.git\sim\OutputStage.asc
XU1 N004 0 N005 opamp Aol=100K GBW=10Meg
XU2 N002 0 N003 opamp Aol=100K GBW=10Meg
Vcom N001 0 1.65
Vsrc Vdac 0 SINE(1.65 1.65 1000) AC 1
R1 N003 N002 20k
R3 N002 Vdac 20k
R4 N004 N003 20k
R5 N005 N004 60k
C1 N005 N004 100p
C2 0 Vout 330p
R6 Vout N005 20k
C3 0 N004 330p
C4 N003 N002 330p
R2 N004 N001 20k
.lib opamp.sub
;.tran 5m
.ac oct 200 1 50k
.backanno
.end
